US05480993
Preparation of N-[(4-methoxy-6-methylpyrimidin-2-yl)-aminocarbonyl]-1-methylpyrazole-5-sulfonamide
23.8 g of 4-methoxycarbonyl-1-methylpyrazole-5-sulfonamide was dissolved in 100 g of acetonitrile and 8.0 g of sodium cyanate and 13.9 g of 2-amino-4-methoxy-6-methylpyrimidine were added thereto with stirring. The reaction mixture was maintained at 40° C. for about 10 minutes. To this mixture was added dropwise 0.3 g of pyridine over 5 minutes. The whole mixture was vigorously and continuously stirred for 2 hours while maintaining the temperature of 40° to 45° C. to complete the reaction. The mixture was then treated according to the same procedure as Example 7 to obtain 35.3 g (Yield 92%) of the title compound.

reactant | 4-methoxycarbonyl-1-methylpyrazole-5-sulfonamide | 23.8 g | COC(=O)C=1C=NN(C1S(=O)(=O)N)C | C6H9N3O4S
reactant | sodium cyanate | 8.0 g | [O-]C#N.[Na+]
reactant | 2-amino-4-methoxy-6-methylpyrimidine | 13.9 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
solvent | acetonitrile | 100 g | C(C)#N | C2H3N
catalyst | pyridine | 0.3 g | N1=CC=CC=C1 | C5H5N
product | N-[(4-methoxy-6-methylpyrimidin-2-yl)-aminocarbonyl]-1-methylpyrazole-5-sulfonamide | 35.3 g, Yield 92% | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=CC=NN1C | C11H14N6O4S
